US04082851
To a stirred mixture of lithium aluminium hydride (5.0 g) and dry 1,2-dimethoxyethane (100 ml), a solution of ethyl 3-amino-4-(3'-trifluoromethylphenoxy)-5-sulfamylbenzoate (20 g) in dry 1,2-dimethoxyethane (100 ml) is dropwise added at 100° C during about 1 hour. After additional stirring and heating for 3 hours, the mixture is cooled, and ethyl acetate (10 ml) followed by water (20 ml) and 4 N acetic acid (125 ml) are very cautiously added dropwise. The solvents are thereafter removed in vacuo and the residue is extracted with ethyl acetate (300 ml). The insoluble inorganic material is removed by filtration, and the filtrate is washed with aqueous sodium hydrogen carbonate and with water, and is then dried in the presence of magnesium sulphate. After filtration, the solvent is removed in vacuo to yield crude 3-amino-4-(3'trifluoromethylphenoxy)-5-sulfamylbenzyl alcohol. After recrystallization from diethyl ether/petroleum ether it is obtained with a melting point of 133°-134° C.

reactant | lithium aluminium hydride | 5.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-amino-4-(3'-trifluoromethylphenoxy)-5-sulfamylbenzoate | 20 g | NC=1C=C(C(=O)OCC)C=C(C1OC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C16H15F3N2O5S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | acetic acid | 4 N, 125 ml | C(C)(=O)O | C2H4O2
product | 3-amino-4-(3'trifluoromethylphenoxy)-5-sulfamylbenzyl alcohol | NC=1C=C(CO)C=C(C1OC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C14H13F3N2O4S
